US04959375
3-Dimethylamino-1-[[(1H)-indol 3 yl]carbonyl]piperidine
A mixture of 3-dimethylaminopiperidine dihydrochloride (1.8 g, 0.01 mol), N-methylmorpholine (2.5 g) and dichloromethane (50 ml) was stirred at ambient temperature for 1.5 h. Indole-3-carboxylic acid (1.92 g, 0.012 mol) was added, followed by dicyclohexylcarbodiimide (2.5 g) and the mixture stirred for 24 h. The mixture was filtered, the filtrate was washed thrice with 1M hydrochloric acid, the acid washings were combined, basified with ammonia and extracted with chloroform. The chloroform extract was dried and evaporated to yield the product base 1.6 g. The base was dissolved in isopropyl alcohol (20ml), acidified with maleic acid (0.72 g, 5% excess) and diluted with ether (10 ml). On standing the maleate salt crystallised and was collected by filtration, 1.04 g, mp 139-141.

reactant | 3-dimethylaminopiperidine dihydrochloride | 0.01 mol, 1.8 g | Cl.Cl.CN(C1CNCCC1)C
reactant | N-methylmorpholine | 2.5 g | CN1CCOCC1 | C5H11NO
reactant | Indole-3-carboxylic acid | 0.012 mol, 1.92 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | dicyclohexylcarbodiimide | 2.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | maleic acid | 0.72 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | isopropyl alcohol | 20ml | C(C)(C)O | C3H8O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Dimethylamino-1-[[(1H)-indol 3 yl]carbonyl]piperidine | CN(C1CN(CCC1)C(=O)C1=CNC2=CC=CC=C12)C | C16H21N3O
